US04130660
To a stirred mixture of 125 g of 1,2,3-benzenetricarboxylic acid and 900 ml of concentrated sulfuric acid at 60°-70° C. is added, gradually over a 2 hour period, 312 g of potassium nitrate. The mixture is heated at 135°-140° C. for 16 hours, cooled and treated with ice and water. Some solid is separated out and is dissolved in water. The entire aqueous mixture is extracted with ether, the extract is washed with water and dried over magnesium sulfate. The ether is concentrated to a small volume, and petroleum ether is added to precipitate a white solid. The solid is collected and dried to give 76.5 g of 5-nitro-1,2,3-benzenetricarboxylic acid.

reactant | 1,2,3-benzenetricarboxylic acid | 125 g | C1(=C(C(=CC=C1)C(=O)O)C(=O)O)C(=O)O | C9H6O6
reactant | sulfuric acid | 900 ml | S(O)(O)(=O)=O | H2O4S
reactant | potassium nitrate | 312 g | [N+](=O)([O-])[O-].[K+]
solvent | water | O | H2O
product | 5-nitro-1,2,3-benzenetricarboxylic acid | 76.5 g | [N+](=O)([O-])C=1C=C(C(=C(C1)C(=O)O)C(=O)O)C(=O)O | C9H5NO8
